US05965559
Using an analogous procedure to that described in Example 1, 1-(4-pyridyl)piperidine-4-carbonyl chloride was reacted with 1-[3-amino-2-(2-naphthalenesulphonamido)propionyl]piperidine hydrochloride salt to give N-[2-(2-naphthalenesulphonamido)-2-(piperidinocarbonyl)ethyl]-1-(4-pyridyl)-piperidine-4-carboxamide in 17% yield;

reactant | 1-(4-pyridyl)piperidine-4-carbonyl chloride | N1=CC=C(C=C1)N1CCC(CC1)C(=O)Cl | C11H13ClN2O
reactant | 1-[3-amino-2-(2-naphthalenesulphonamido)propionyl]piperidine hydrochloride salt | Cl.NCC(C(=O)N1CCCCC1)NS(=O)(=O)C1=CC2=CC=CC=C2C=C1
product | N-[2-(2-naphthalenesulphonamido)-2-(piperidinocarbonyl)ethyl]-1-(4-pyridyl)-piperidine-4-carboxamide | 17% yield | C1=C(C=CC2=CC=CC=C12)S(=O)(=O)NC(CNC(=O)C1CCN(CC1)C1=CC=NC=C1)C(=O)N1CCCCC1 | C29H35N5O4S
